US05252587
Following the same procedure as in Example 44 Step A, 5 g (19 mmol) of dimethyl-(4-chlorobutyl)-phenylsilane in 50 ml of acetone are refluxed for 60 hours with 17 g (114 mmol) of sodium iodide to afford 5.6 g (83%) of expected dimethyl-(4-iodobutyl)-phenylsilane.

reactant | dimethyl-(4-chlorobutyl)-phenylsilane | 19 mmol, 5 g | C[Si](C1=CC=CC=C1)(CCCCCl)C | C12H19ClSi
reactant | sodium iodide | 114 mmol, 17 g | [I-].[Na+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | dimethyl-(4-iodobutyl)-phenylsilane | 5.6 g, 83% | C[Si](C1=CC=CC=C1)(CCCCI)C | C12H19ISi
